US07872009B2
Step 1: (±)-Ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate
To a solution of ethyl 2,3-dibromopropionate (8.05 g, 31.0 mmol, Aldrich) in acetone (35 mL) was added o-aminophenol (3.38 g. 31.0 mmol) and potassium carbonate (5.1 g, 36.9 mmol). The reaction mixture was stirred at reflux under a water condenser for 18 h. Upon cooling to room temperature, the reaction was concentrated in vacuo, and the residue was taken up in water (50 mL) and the product was extracted using EtOAc (3×75 mL). The organic fractions were combined, washed with saturated brine (15 mL), dried over sodium sulfate, and concentrated. Purification of the product by flash column chromatography (30% EtOAc/hexane) afforded the title compound as a yellow oil. MS m/z: 208 (M+1).

reactant | ethyl 2,3-dibromopropionate | 31.0 mmol, 8.05 g | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | o-aminophenol | 31.0 mmol, 3.38 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | potassium carbonate | 36.9 mmol, 5.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | (±)-Ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | O1C2=C(NCC1C(=O)OCC)C=CC=C2 | C11H13NO3
